data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7384,"CC(=O)O.CC(=O)O[I:1]1(OC(C2=CCCN3C(=O)CCC23)C2C(=O)C=CCC2C)([O:2]C(C)=O)OC(=O)C2=C1C=CC=C2|((1, 2), 2)"
train,pmechdb_split_0,0,8398,"CC1=C(CCO)SC=[N+]1CC1=CC=C(CC[N+]2=[C:1]([C:2](CCCOCC3=CC=CC=C3)(C(CC(=O)C3=NC=CC=C3)C3=CC=CO3)[O-:3])SC(CCO)=C2C)C=C1.CCO.CC[NH+](CC)CC.[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4960,"C[Si-](C)(C)(F)C=[C:1]=[CH2:2].[CH2:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1573,"C=C[C:1](OCC)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6612,"CCO.CCOC(=O)C(N[C:1]([CH:2](C(N)=NOS(C)(=O)=O)[H:3])=[O:4])C1=CC=CC=C1.C[O:5][Na]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,849,"CC(=O)OC1=CC[C:1]2=[C:2]3C(C4=CC=C(C)C=C4)CC4(C)C(=O)CCC4C3CCC2=C1.[H:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,975,"C[N-:1]C.C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,4507,"N#[C-:1].O.[CH:2]#[N:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7920,"CC[CH+:1]C1=CC=CC=C1.CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,9641,"CC1C(=O)CCC1=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,756,"C[CH:1]=[O+:2]C.[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5199,"COCC1C(O)C(I)C2C1C[C:1]([O:2][Na:3])=[O+:4]2.[I-]|((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,67,"CC[C:1](C)([N:2]1CCCC1)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1264,"C[N:1](C=O)[I:2].C[Si](C)(C)C[CH:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5771,"COC1=CC=C2C(=C1[F+:1][B-:2](F)(F)F)CCC1C2CCC2(C)C(=O)CCC12.N#N|((2, 1), 1)"
train,pmechdb_split_0,0,2366,"Cl[C:1]1([O-:2])OCCC[NH2+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1729,"COC1=C[CH+:1][C:2](C(C)C)([H:3])O1.[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,575,"C1=C[N:1]=CN1.O=C(C1=CC=CC=C1)[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3354,"CS(=O)(=O)O[Si-:1](C)(C)(C)[O:2]S(C)(=O)=O|((1, 2), 2)"
train,pmechdb_split_0,0,2440,"C[Si](C)(C)C[C:1]#[CH:2].[H:3][I:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,10072,"CC(C)=C[CH2+:1].CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCC1=CC(O)=C[C:2]([OH:3])=[CH:4]1.O|(3, 2);((2, 4), 1)"
train,pmechdb_split_0,0,5578,"CC[CH2:1][O:2]S(=O)(=O)C(F)(F)F.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2095,"CC(C)=C1C=CC(C)([CH:1](Cl)[Cl:2])[C:3]([O-:4])=[CH:5]1.O=C(O)[O][Na].[Na+]|(4, 3);((3, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,289,"NC1=CC=CC=[C:1]1[Mg:2][Br].O=S(=O)(O)[O:3][H:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3388,"CN(C)C=[N+:1](C)[H:2].C[S+](C)[CH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7749,"CO.COC1=C(O)C2=C(C=C1)CC1C3C[CH+:1][C:2](O)=[CH:3]C23CCN1C1CCCCC1.CS(=O)(=O)O.CS(=O)(=O)[O-]|((3, 2), 1)"
train,pmechdb_split_0,0,7230,"CCC1(C)C(C)[O:1]1.[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3472,"COC1=C(C)C=C2C[C:1](C)([H:2])[C:3](=[N+:4]3CCCC3)C(C[CH:5]=[CH:6][O-:7])C2=C1|(7, 6);((6, 5), 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3363,"CCOC(CC#N)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3100,"CCC(C1=CC=CC=C1)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9820,"O=C(CC(=O)O[C:1](C1=CC=CC=C1)=[O:2])CC1=CC=CC=C1.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7681,"C1=CC=C([CH2:1][Br:2])C=C1.CCCC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3419,"CC(=O)O.CC(C)N(CC1=CC=CC=C1)C(=O)C([C:1](C)=[O:2])[NH:3][C:4]1=[CH:5]CC2(O)C3CC4=C(C=CC=C4)C2(CCN3C)C1.O|(3, 4);((4, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9761,"C[CH+:1]CBr.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,9165,"CO.COC1=C2OC3C(=[O:1])CCC4C5CC(=C2C34CC[NH+]5CC2=CC=CC=C2)C=C1.COC=[O+]C.O=C(O)C1=C(O)C=CC(S(=O)(=O)[O:2][H:3])=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4814,"CO[C:1](C(C)Br)([OH:2])[Br:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3115,"CS[C:1](C)=[O+:2]C.C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4465,"C[NH+:1]1CCO[C:2]1(Cl)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,749,"C=CC[NH+]1CCC23C4=C5C=CC(OC)=C4OC2C(=[O:1])CCC3C1C5.CO.COC=[O+]C.O=C(O)C1=C(O)C=CC(S(=O)(=O)[O:2][H:3])=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5102,"CC(C)[O-].CC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(C2=CC=CC=C2)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,9429,"CC1(C)CCCC2(C)C3C=CC(C31)[C:1]2=[CH2:2].[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1145,"C1=CC=[NH+]C=C1.CCC(=O)O[C:1](CC)=[O:2].CCC1=N[C:3](CC2CCCCC2)=[C:4]([O-:5])O1|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2256,"C1=CC=NC=C1.CC(C)=O.CC1=CC=C(S(=O)(=O)[O-])C=C1.OCC[O+:1]=[C:2]1CCC(N2C=C(I)C=N2)CC1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9813,"CN(C)C(=O)[CH:1]([H:2])[C:3](CC1=CC=CC=C1)=[O:4].[NH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3391,"CC[N+]1=[C:1]([C:2](CCC(C)=O)(C2=CC=C(C)C=C2)[O-:3])SC(CCO)=C1C.CC[NH+](CC)CC.[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3121,"C[CH:1]=[N:2]C.[H:3][AlH3-:4]|((4, 3), 1);((1, 2), 2)"
